US07122543B2
Methyl 4-(3,4,5,6-tetramethoxy-2-methylbenzyl)-2-(3-pyridyl)benzoate
To a solution of methyl 4-(3,4,5,6-tetramethoxy-2-methylbenzyl)-2-(trifluoromethanesulfonyl)oxybenzoate (333 mg, 0.6555 mmol) in toluene (6 ml) were added tetrakistriphenylphosphine palladium (23 mg, 0.0199 mmol), aqueous solution of sodium carbonate (2M aqueous solution, 1.00 ml), lithium chloride (56 mg, 1.3241 mmol) and ethanolic solution (1.3 ml) of pyridine-3-boronic acid 1,3-propanediol cyclic ester (159 mg, 0.9814 mmol) and the mixture was heated with stirring at 95° C. for 16 hours. The reaction solution was diluted with ethyl acetate (100 ml), washed with water and dried and the solvent was evaporated therefrom. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=1:1) to give the title compound (284 mg, 0.6498 mmol, 99%).

reactant | methyl 4-(3,4,5,6-tetramethoxy-2-methylbenzyl)-2-(trifluoromethanesulfonyl)oxybenzoate | 0.6555 mmol, 333 mg | COC=1C(=C(CC2=CC(=C(C(=O)OC)C=C2)OS(=O)(=O)C(F)(F)F)C(=C(C1OC)OC)OC)C | C21H23F3O9S
reactant | sodium carbonate | 2M, 1.00 ml | C([O-])([O-])=O.[Na+].[Na+]
reactant | lithium chloride | 1.3241 mmol, 56 mg | [Cl-].[Li+]
reactant | pyridine-3-boronic acid 1,3-propanediol cyclic ester | 0.9814 mmol, 1.3 ml, 159 mg | B1(OCCCO1)C2=CN=CC=C2 | C8H10BNO2
solvent | toluene | 6 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | Methyl 4-(3,4,5,6-tetramethoxy-2-methylbenzyl)-2-(3-pyridyl)benzoate | 0.6498 mmol, 284 mg, 99% | COC=1C(=C(CC2=CC(=C(C(=O)OC)C=C2)C=2C=NC=CC2)C(=C(C1OC)OC)OC)C | C25H27NO6
